Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
barium sulfate / iodine / Bactrim
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female with history of
idiopathic drop attacks, HTN, COPD not O2 dependent, and ___
diagnosis of metastatic adenocarcinoma of unknown primary to the
brain s/p craniotomy and currently on cyberknife treatment who
presents with chest pain.

THe patient states she has been having chest pain off and on for
past several months. But in the last 24 hours it has become
progressively worse and severe. The pain is currently, and has
always been, in the right upper chest radiating into the axilla,
sharp, stabbing, comes in waves. Not worse with palpation. No
dyspnea associated with it. She denies any cough or fever. No
headache, N/V, diarrhea, abd pain otherwise.

She reportedly has history of iodine ?contrast allergy in past.
However she cannot recall this. She says she has allergy to
barium contrast before, which causes constipation.

Of note on ___ she was sent to ED from ___ for dyspnea,
but this resolved on arrival, so she was sent home. 

Patient was seen by new PCP ___ on ___. The patient
is now still waiting for her initial medical oncology and
palliative care appointment (for pain mgmt).  

ED: received 40 mg IV solumedrol at 1:30 AM for CTA study
premedication

 
Past Medical History:
ONCOLOGIC HISTORY:
-She began having unprovoked episodes of falling ___. She
underwent further workup by ___ Neurology in ___ with 
MRI/MRA,
EEG, and cardiac workup. On ___ she presented with
lightheadedness and underwent NCHCT that was significant for 
left
parieto-occipital brain lesion, edema and midline shift. She
underwent craniotomy with neurosurgery on ___.
-During admission, CT Scan of Chest was obtained to further
investigate lung mass viewed on Chest-xray. Results showed Large
right upper lobe mass  penetrates the chest wall toward the
axilla and destroys the first and second ribs and is concerning
for lung primary rather than secondary neoplasia. Thoracic
surgery was consulted and recommended no intervention as long as
tissue would be obtained from the brain mass.
-Brain biopsy reveals metastatic adenocarcinoma, although stains
nondiagnostic for primary site.
-___ The brain MRI from shows a total of 6 lesions in 
addition
to the cavity. She begins cyberknife treatment.

OTHER PAST MEDICAL HISTORY: 
COPD 
Drop Attacks, idiopathic
HTN
 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   Living   ___                                            
Father   ___                                               
Sister   Living                                                 
Brother  Living                                                 

 
Physical ___:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  

CV: Heart regular, no murmur. No reproducible tenderness to
palpation on chest.
RESP: Lungs clear to auscultation
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place
and time.

Examined on day of discharge -- AVSS, though her SBP dropped 
from ~145 to 120 while standing. Otherwise, no notable changes.
 
Pertinent Results:
LABORATORY RESULTS:

___ 07:20AM BLOOD WBC-7.7 RBC-3.39* Hgb-11.0* Hct-32.9* 
MCV-97 MCH-32.4* MCHC-33.4 RDW-15.2 RDWSD-54.2* Plt ___
___ 10:51PM BLOOD WBC-7.4 RBC-3.58* Hgb-11.7 Hct-34.2 
MCV-96# MCH-32.7* MCHC-34.2 RDW-14.8 RDWSD-52.2* Plt ___
___ 07:20AM BLOOD Glucose-161* UreaN-13 Creat-0.5 Na-135 
K-4.0 Cl-94* HCO3-27 AnGap-14
___ 10:51PM BLOOD Glucose-91 UreaN-12 Creat-0.6 Na-132* 
K-3.5 Cl-90* HCO3-25 AnGap-17

CTA CHEST

1. No evidence of pulmonary embolism or aortic abnormality. 
2. Re-demonstration of 9.0 cm right upper lobe mass with 
invasion of the chest 
wall destruction of the right second and third ribs similar to 
prior. 

CT head

  
1. Status post left parietal craniotomy and resection with 
interval 
development of encephalomalacia in the resection cavity.  
Evaluation for 
recurrence in this region is limited on the current modality and 
better 
assessed with contrast enhanced MRI. 
2. Subtle hyperdensity in the left frontal lobe, likely 
corresponding with the 
known metastatic lesion seen on prior MRI from ___. 

 
Brief Hospital Course:
Ms. ___ was initially admitted with chest pain; a CTA chest 
showed no PE, but demonstrated right rib infiltration from her 
CA. Her EKG and troponin were likewise not suggestive of 
ischemia. Her pain was very pleuritic, and localized over the 
rib lesions -- therefore, this was most consistent with cancer 
pain. Her symptoms were also dramatically improved after having 
a large bowel movement. Her pain was well controlled with her 
home dose of oxycodone. She received a single dose of radiation 
for her brain metastases while she was an inpatient, and was 
placed on a dexamethasone taper as described below. Overall, she 
had not been doing well at home -- falling, having difficulty 
taking medications. She was evaluated by ___ and OT, and 
discharged to a ___.

HOSPITAL COURSE

1. Metastatic adenocarcinoma.
-Dexamethasone taper:
     - dexamethasone 2 mg BID until ___ THEN
     - dexamethasone 2 mg daily x 10 days THEN
     - dexamethasone 1 mg daily x 10 then THEN
     - STOP
- outpatient oncology and palliative care follow up
- oxycodone ___ mg q4h PRN
- bowel reg as below

2. FTT
- SNF on discharge

3. Opiate induced constipation
- Daily Miralax

4. Headache. Patient complained of intermittent headache while 
inpatient. Neurological exam was unchanged. CT head did not show 
any change.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
2. amLODIPine 7.5 mg PO DAILY 
3. Dexamethasone 2 mg PO Q12H 
This is the maintenance dose to follow the last tapered dose
4. Docusate Sodium 100 mg PO BID 
5. Famotidine 20 mg PO DAILY 
6. LevETIRAcetam 500 mg PO BID 
7. Nicotine Patch 14 mg TD DAILY 
8. Senna 17.2 mg PO QHS 
9. DULoxetine 30 mg PO DAILY 
10. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Severe 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  amLODIPine 7.5 mg PO DAILY  
3.  Dexamethasone 2 mg PO Q12H 
2 mg BID until ___ THEN  2 mg daily x 10 days THEN
1 mg daily x 10  THEN STOP 
Tapered dose - DOWN  
4.  Docusate Sodium 100 mg PO BID  
5.  Famotidine 20 mg PO DAILY  
6.  LevETIRAcetam 500 mg PO BID  
7.  Nicotine Patch 14 mg TD DAILY  
8.  Senna 17.2 mg PO QHS  
9.  DULoxetine 30 mg PO DAILY  
10.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Severe 

RX *oxycodone 5 mg 1 tablet(s) by mouth EVery four hours as 
needed Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Faiilure to thrive
Chest pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted with severe chest pain, and not feeling safe 
at home. Fortunately, a CT scan showed no blood clot in your 
lungs (a pulmonary embolus), and an EKG showed no heart attack. 
You were given stool softeners and had a large bowel movement 
with dramatic improvement in your symptoms. You will be 
discharging to a skilled nursing facility and will follow up 
with Dr. ___ as an outpatient for your cancer.
 
Followup Instructions:
___